US06747023B1
Lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[4,5-c]pyridine-2-carboxylate
In anhydrous tetrahydrofuran (10 ml) was dissolved 5-methyl-4,5,6,7-tetrahydrothiazolo[4,5-c]pyridine (583 mg), followed by the dropwise addition of a hexane solution (1.54M, 2.70 ml) of n-butyl lithium at −78° C. After stirring for 10 minutes, the reaction mixture was warmed up to 0° C. and stirring was conducted for 30 minutes. The reaction mixture was cooled to −78° C. A carbon dioxide gas was blown into the reaction mixture for 15 minutes, followed by warming up to room temperature. The reaction mixture was concentrated under reduced pressure, whereby the title compound (820 mg) was obtained as a pale brown foamy solid.

reactant | 5-methyl-4,5,6,7-tetrahydrothiazolo[4,5-c]pyridine | 583 mg | CN1CC2=C(CC1)SC=N2 | C7H10N2S
reactant | hexane | 1.54M, 2.70 ml | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[4,5-c]pyridine-2-carboxylate | CN1CC2=C(CC1)SC(=N2)C(=O)[O-].[Li+] | InChI=1S/C8H10N2O2S.Li/c1-10-3-2-6-5(4-10)9-7(13-6)8(11)12;/h2-4H2,1H3,(H,11,12);/q;+1/p-1
